US04325966
2,6-Dimethylaniline (12.1 g, 0.1 mole) and propargyl chloride (3.8 g, 0.05 mole), were mixed and heated over a steam bath using an efficient reflux condenser for 8 hours, then treated with aqueous caustic soda solution, extracted with ether, the ethereal layer worked up and the residue distilled to give 2,6-dimethylphenyl propargylamine, b.p. 56°-58° C./0.01 mm.

reactant | 2,6-Dimethylaniline | 0.1 mole, 12.1 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | propargyl chloride | 0.05 mole, 3.8 g | C(C#C)Cl | C3H3Cl
reactant | caustic soda | [OH-].[Na+]
product | 2,6-dimethylphenyl propargylamine | CC1=C(C(=CC=C1)C)NCC#C | C11H13N
